US06420359B1
b) 3-Amino-2-(ethylamino)-6-(trifluoromethyl)pyridine
A solution of 2-(ethylamino)-3-nitro-6-(trifluoromethyl)pyridine (1.1 g, 4.9 mmol) in MeOH (40 mL) was stirred overnight at room temperature under hydrogen (1 atm.) in the presence of 20% Pd(OH)2/C (100 mg). The catalyst was removed by filtration through diatomaceous earth. The filtrate was concentrated under reduced pressure to give the title compound as an orange oil (1 g).

reactant | 2-(ethylamino)-3-nitro-6-(trifluoromethyl)pyridine | 4.9 mmol, 1.1 g | C(C)NC1=NC(=CC=C1[N+](=O)[O-])C(F)(F)F | C8H8F3N3O2
solvent | MeOH | 40 mL | CO | CH4O
catalyst | Pd(OH)2/C | 100 mg | [OH-].[OH-].[Pd+2]
product | 3-Amino-2-(ethylamino)-6-(trifluoromethyl)pyridine | 1 g | NC=1C(=NC(=CC1)C(F)(F)F)NCC | C8H10F3N3
